US06440970B1
In an alternative approach to the synthesis of pyridine-substituted pyridyl diazabicyclic compounds, 3,5-dibromopyridine can be converted into the corresponding 3-bromo-5-alkoxy- and 3-bromo-5-aryloxypyridines by the action of sodium alkoxides or sodium aryloxides. Procedures such as those described by D. L. Comins et al., J. Org. Chem. 55: 69-73 (1990) and H. J. den Hertog et al., Recueil Trav. Chim. Pays-Bas 74: 1171-1178 (1955), are used. This is exemplified by the preparation 2-(5-(4-methoxyphenoxy)-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane. Reaction of 3,5-dibromopyridine with sodium 4-methoxyphenoxide in N,N-dimethylformamide gives 3-bromo-5-(4-methoxyphenoxy)pyridine. Coupling of 3-bromo-5-(4-methoxyphenoxy)pyridine with (1S,4S)-N-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]heptane in the presence of a catalytic amount of tris(dibenzylideneacetone)dipalladium(0) and 2,2′-bis(diphenylphosphino)-1,1′-binapthyl and sodium tert-butoxide in toluene provides (1S,4S)-2-(5-(4-methoxyphenoxy)-3-pyridyl)-5-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]heptane. Removal of the N-tert-butoxycarbonyl group, using trifluoroacetic acid, produces (1S,4S)-2-(5-(4-methoxyphenoxy)-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane.

reactant | 3,5-dibromopyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 2-(5-(4-methoxyphenoxy)-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane | COC1=CC=C(OC=2C=C(C=NC2)N2C3CNC(C2)C3)C=C1 | C17H19N3O2
reactant | sodium 4-methoxyphenoxide | COC1=CC=C([O-])C=C1.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-bromo-5-(4-methoxyphenoxy)pyridine | BrC=1C=NC=C(C1)OC1=CC=C(C=C1)OC | C12H10BrNO2
